US09085606B2
Preparation of 3-chloro-5-(2-hydroxypropan-2-yl)benzaldehyde
To a solution of 2-(3-chloro-5-(1,3-dioxolan-2-yl)phenyl)propan-2-ol (5.45 g, 22.46 mmol) in acetone (50 mL) was added p-toluenesulfonic acid hydrate (0.85 g, 4.47 mmol) and the reaction mixture was stirred at room temperature for 1 h to give an orange-red solution. The solvent was evaporated in vacuo to give an orange-brown residue. The residue was partitioned between aqueous saturated NaHCO3 solution (25 mL) and ethyl acetate (50 mL), the organic layer was removed, washed with brine (1×25 mL), dried over anhydrous sodium sulfate, filtered and evaporated in-vacuo to give an orange-red viscous liquid (4.75 g). Purification of the crude product by Silica-gel flash chromatography on silica gel column and elution with 5-40% ethyl acetate in n-hexane afforded the desired product as a cream crystalline solid (2.35 g). 1H NMR (400 MHz, CDCl3): δ 1.59 (s, 6H, (CH3)2C—OH), 1.76 (brs, 1H, (CH3)2C—OH), 7.71 (dd, J=1.80 Hz, 1H), 7.75 (appt, J=1.80 Hz, 1H), 7.85 (appt/dd, J=1.40 Hz, 1H), 9.96 (s, 1H, —CHO). 1H NMR spectrum of the solid was consistent with the suggested structure of the product.

reactant | 2-(3-chloro-5-(1,3-dioxolan-2-yl)phenyl)propan-2-ol | 22.46 mmol, 5.45 g | ClC=1C=C(C=C(C1)C1OCCO1)C(C)(C)O | C12H15ClO3
reactant | p-toluenesulfonic acid hydrate | 4.47 mmol, 0.85 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 3-chloro-5-(2-hydroxypropan-2-yl)benzaldehyde | 4.75 g | ClC=1C=C(C=O)C=C(C1)C(C)(C)O | C10H11ClO2
